US08017607B2
In a manner similar to the method described in Example 4, rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile (42.3 mg, 0.10 mmol) was reacted with 4-carboxymethyl-2-ethoxy-benzoic acid ethyl ester (Aldrich, 50.4 mg, 0.20 mmol), in the presence of HATU (91.0 mg, 0.24 mmol) and iPr2NEt (0.1 mL) in CH2Cl2 (2 mL) at rt for 2 hrs to give rac-4-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-2-oxo-ethyl}-2-ethoxy-benzoic acid ethyl ester (52.6 mg, 37.6%) which was used in the next step without further purification.

reactant | rac-(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-4-(2,2-dimethyl-propyl)-pyrrolidine-3-carbonitrile | 0.10 mmol, 42.3 mg | ClC=1C(=C(C=CC1)C1NCC(C1(C#N)C1=C(C=C(C=C1)Cl)F)CC(C)(C)C)F | C22H22Cl2F2N2
reactant | 4-carboxymethyl-2-ethoxy-benzoic acid ethyl ester | 0.20 mmol, 50.4 mg | C(C)OC(C1=C(C=C(C=C1)CC(=O)O)OCC)=O | C13H16O5
reactant | HATU | 0.24 mmol, 91.0 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | iPr2NEt | 0.1 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | rac-4-{2-[(2S,3S,4S)-2-(3-chloro-2-fluoro-phenyl)-3-(4-chloro-2-fluoro-phenyl)-3-cyano-4-(2,2-dimethyl-propyl)-pyrrolidin-1-yl]-2-oxo-ethyl}-2-ethoxy-benzoic acid ethyl ester | 52.6 mg, 37.6% | C(C)OC(C1=C(C=C(C=C1)CC(=O)N1[C@@H]([C@@]([C@@H](C1)CC(C)(C)C)(C#N)C1=C(C=C(C=C1)Cl)F)C1=C(C(=CC=C1)Cl)F)OCC)=O | C35H36Cl2F2N2O4
